US06153652
Synthesis of N-[(3,4-dichlorophenyl)acetyl]-L-alanine iso-butyl ester
Following General Procedure B' and using 3,4-dichlorophenylacetic acid (Aldrich) and L-alanine iso-butyl ester hydrochloride (from Example B' above), the title compound was prepared as a solid having a melting point of 81°-83° C. The reaction was monitored by tlc on silica gel and purification was by extraction with Et2O followed by washes with aqueous K2CO3 and aqueous HCl.

reactant | 3,4-dichlorophenylacetic acid | ClC=1C=C(C=CC1Cl)CC(=O)O | C8H6Cl2O2
reactant | L-alanine iso-butyl ester hydrochloride | Cl.C(C(C)C)OC([C@@H](N)C)=O
product | N-[(3,4-dichlorophenyl)acetyl]-L-alanine iso-butyl ester | C(C(C)C)OC([C@@H](NC(CC1=CC(=C(C=C1)Cl)Cl)=O)C)=O | C15H19Cl2NO3
